US05201938
Preparation of N-(4-Bromo-1-methylpyrazol-3-yl)-7-chloro-5-methoxy-1,2,4-triazolo[1,5-c]-pyrimidine-2-sulfonamide
Pyridine (1.08 g, 8.0 mmol) and dimethyl sulfoxide (0.2 g) were added to a solution of 7-chloro-5-methoxy-1,2,4-triazolo[1,5-c]pyrimidine-2-sulfonyl chloride (1.0 g, 4.0 mmol) and 3-amino-4-bromo-1-methylpyrazole (0.70 g, 4.0 mmol) in 10 mL of acetonitrile with stirring at ambient temperature and the mixture was allowed to react overnight. The mixture was then concentrated by evaporation under reduced pressure and the residue was taken up in methylene chloride. The resulting solution was extracted with water and dried over magnesium sulfate. The volatile materials were then removed by evaporation under reduced pressure and the solid residue was extracted with diethyl ether and with water, recovered by filtration, and dried under reduced pressure to obtain 0.38 g (25 percent of theory) of the title compound as a white solid melting at 230°-232° C.

reactant | Pyridine | 8.0 mmol, 1.08 g | N1=CC=CC=C1 | C5H5N
reactant | dimethyl sulfoxide | 0.2 g | CS(=O)C | C2H6OS
reactant | 7-chloro-5-methoxy-1,2,4-triazolo[1,5-c]pyrimidine-2-sulfonyl chloride | 4.0 mmol, 1.0 g | ClC1=CC=2N(C(=N1)OC)N=C(N2)S(=O)(=O)Cl | C6H4Cl2N4O3S
reactant | 3-amino-4-bromo-1-methylpyrazole | 4.0 mmol, 0.70 g | NC1=NN(C=C1Br)C | C4H6BrN3
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-(4-Bromo-1-methylpyrazol-3-yl)-7-chloro-5-methoxy-1,2,4-triazolo[1,5-c]-pyrimidine-2-sulfonamide | BrC=1C(=NN(C1)C)NS(=O)(=O)C1=NN2C(=NC(=CC2=N1)Cl)OC | C10H9BrClN7O3S
